US06211177B1
N,N′-carbonyldiimidazole (0.401 g) is added all at once to an N,N-dimethylformamide (20 ml) solution of 2-benzyl-5-carboxy-1-(2-chlorobenzyl) benzimidazole (0.466 g), and the solution is stirred for one hour at room temperature. Subsequently, a N,N-dimethylformamide (5 ml) solution of benzenesulfonamide (0.389 g) and diazabicycloundecene (0.377 g) is added, and the solution is stirred for 48 hours at 100° C. The reaction solution is cooled, and the solvent is removed through evaporation under reduced pressure. This material is dissolved in a mixture solution of methanol and water. The pH is adjusted to pH 5˜6 using 10% hydrochloric acid. Precipitated crystals are separated through filtration, and are dried. Thus, 5-benzenesulfonylcarbamoyl-2-benzyl-1-(2-chlorobenzyl)benzimidazole (0.447 g) is obtained.

reactant | 2-benzyl-5-carboxy-1-(2-chlorobenzyl) benzimidazole | 0.466 g | C(C1=CC=CC=C1)C1=NC2=C(N1CC1=C(C=CC=C1)Cl)C=CC(=C2)C(=O)O | C22H17ClN2O2
reactant | benzenesulfonamide | 0.389 g | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | diazabicycloundecene | 0.377 g | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-benzenesulfonylcarbamoyl-2-benzyl-1-(2-chlorobenzyl)benzimidazole | 0.447 g | C1(=CC=CC=C1)S(=O)(=O)NC(=O)C1=CC2=C(N(C(=N2)CC2=CC=CC=C2)CC2=C(C=CC=C2)Cl)C=C1 | C28H22ClN3O3S
